US07807671B2
To a stirred solution of phenyl ethylene diamine (3 g) taken in dry toluene (50 ml), cooled to −10° C., trimethylaluminum (36 ml, 2M solution in hexane) was added drop wise for 30 minutes. The reaction mixture was brought to room temperature and was heated to 50° C. 1-tert-Butyl 4-methyl piperidine-1,4-dicarboxylate (8 g) taken in dry toluene (50 ml) added to the above mixture in a drop wise fashion. The combined mixture was stirred at 110° C. for 5 hours, then allowed stir over night at room temperature. To the reaction mixture water (50 ml) was added followed by methanol (50 ml) and allowed to stir for 15 minutes at 0° C. The whole mixture was then filtered through celite bed and washed with chloroform. The combined filtrate was concentrated under reduced pressure. The resulting crude was purified by column chromatography using methanol/chloroform (2:8) as eluent to afford tert-butyl 4-(1-phenyl-4,5-dihydro-1H-imidazol-2-yl)piperidine-1-carboxylate as solid product.

reactant | phenyl ethylene diamine | 3 g | C1(=CC=CC=C1)NCCN | C8H12N2
reactant | trimethylaluminum | 2M, 36 ml | C[Al](C)C
reactant | 1-tert-Butyl 4-methyl piperidine-1,4-dicarboxylate | 8 g | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
reactant | water | 50 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 ml | CO | CH4O
product | tert-butyl 4-(1-phenyl-4,5-dihydro-1H-imidazol-2-yl)piperidine-1-carboxylate | C1(=CC=CC=C1)N1C(=NCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27N3O2
